US08097628B2
(i) [(1S)-3,8-Dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl methanesulfonate
(1S)-1-(Hydroxymethyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (750 mg, 3.42 mmol) was suspended in dry DCM (100 ml) at room temperature under argon and then treated with Et3N (0.572 ml, 4.11 mmol). The mixture was then cooled using an ice-water bath. Methanesulfonyl chloride (0.293 ml, 3.76 mmol) was then added and the reaction was allowed to warm up to room temperature. After 50 minutes there was no starting material left so the mixture was washed with saturated NaHCO3 (100 ml). The aqueous layer was extracted with 20% MeOH/DCM (2×100 ml); the combined organic extracts were dried over MgSO4, filtered and evaporated to afford the product as a brown foam (1.05 g, 90% purity by LCMS).

reactant | (1S)-1-(Hydroxymethyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 3.42 mmol, 750 mg | OC[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O | C10H9N3O3
reactant | Et3N | 4.11 mmol, 0.572 ml | CCN(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 3.76 mmol, 0.293 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | [(1S)-3,8-Dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl methanesulfonate | 1.05 g, 90% | CS(=O)(=O)OC[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O | C11H11N3O5S
